US08053438B2
To a sealed tube was added 4,4-difluorocyclohex-1-enyl trifluoromethanesulfonate (5.950 g, 22.35 mmol), bis(pinacolato)diboron (6.81 g, 26.8 mmol), potassium acetate (3.77 mL, 60.4 mmol), and dppf (0.867 g, 1.565 mmol) in dioxane (75 mL) to stir at 130° C. overnight. Reaction was worked up via reparatory funnel. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with isocratic DCM, to provide 2-(4,4-difluorocyclohex-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 4,4-difluorocyclohex-1-enyl trifluoromethanesulfonate | 22.35 mmol, 5.950 g | FC(S(=O)(=O)OC1=CCC(CC1)(F)F)(F)F | C7H7F5O3S
reactant | bis(pinacolato)diboron | 26.8 mmol, 6.81 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 60.4 mmol, 3.77 mL | C(C)(=O)[O-].[K+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 1.565 mmol, 0.867 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-(4,4-difluorocyclohex-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1(CC=C(CC1)B1OC(C(O1)(C)C)(C)C)F | C12H19BF2O2
